US20010027196A1
2-Amino-4-(2-chloro-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 2-chlorobenzylamine in DME. ES-MS m/e (%): 328 (M{37Cl}+H+, 30), 326 (M{35Cl}+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-chloro-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=C(C=CC=C1)Cl)C#N)C=1OC=CC1 | C16H12ClN5O
